US07884109B2
N-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-amine.
6-Fluoro-1-(5-nitro-4-thiocyanatopyrimidin-2-yl)-1H-benzo[d]imidazole (498 mg, 1.57 mmol, 1.1 equiv) was added to a solution of (1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine (600 mg, 1.43 mmol, 1 equiv) in THF (20 mL) containing DIEA (1.5 mL), followed by adding 2 mL of DMSO. The resulted red solution was stirred at RT for 16 h. THF was evaporated off The residue was dissolved in EtOAc, washed with water and brine, dried (Na2SO4). The organic layer was evaporated to dryness. The residue was purified on ISCO (12 g column, MeOH—CH2Cl2 0-5%) to give a yellow solid product (633 mg, 65%). MS (ESI): 677.3.

reactant | 6-Fluoro-1-(5-nitro-4-thiocyanatopyrimidin-2-yl)-1H-benzo[d]imidazole | 1.57 mmol, 498 mg, 1.1 equiv | FC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C1 | C12H5FN6O2S
reactant | (1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine | 1.43 mmol, 600 mg, 1 equiv | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](C2=CC(=CC=C12)F)N | C26H30FNOSi
reactant | DIEA | 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-amine | 633 mg, 65% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](C2=CC(=CC=C12)F)NC1=NC(=NC=C1[N+](=O)[O-])N1C=NC2=C1C=C(C=C2)F | C37H34F2N6O3Si
